US07342007B2
a. N-[(1S)-1-phenylprop-2-en-1-yl]cyclopentanamine (8a)
To a solution of Methyl (2E)-3-phenylprop-2-en-1-yl carbonate (384 mg) in THF (5 ml), was added N,N-bis[(1S)-1-phenylethyl]dinaphtho[1,2-f:2′,1′-d][1,3,2]dioxaphosphepin-4-amine (108 mg), and chloro(1,5-cyclooctadiene)iridium(I) dimer (27 mg) at RT under N2. The mixture was heated at reflux overnight. Evaporated material then redissoled in a 50:50 mixture of EtOH:THF. To this solution was added macro porous p-toluenesulfonic acid resin (6 g) and the mixture was gently agitated for 3 h. At this time the resin was washed completely with THF, THF:EtOH and EtOH. To a suspension of the resin in MeOH (75 ml) was added 7 N NH3.MeOH (75 ml). This mixture was gently agitated for 2 hours and filered, washing with MeOH, THF, THF:MeOH, and DCM. Evaporating this filtrate left the title compound as a yellow oil (360 mg, 89%). 1H NMR (300 MHz, CDCl3) δ 1.25-1.87 (m, 9H), 2.98-3.07 (m, 1H), 4.24 (d, 1H, J=7 Hz), 5.06-5.21 (m, 2H), 5.87-5.99 (m, 1H), 7.20-7.34 (m, 5H). MS APCI, m/z=202 (M+1), LC/MS, 1.35 min.

reactant | Methyl (2E)-3-phenylprop-2-en-1-yl carbonate | 384 mg | C(OC)(OC\C=C\C1=CC=CC=C1)=O | C11H12O3
reactant | N,N-bis[(1S)-1-phenylethyl]dinaphtho[1,2-f:2′,1′-d][1,3,2]dioxaphosphepin-4-amine | 108 mg | C1(=CC=CC=C1)[C@H](C)N(P1OC2=C(C3=C(O1)C=CC=1C=CC=CC13)C1=CC=CC=C1C=C2)[C@@H](C)C2=CC=CC=C2 | C36H30NO2P
reactant | EtOH | CCO | C2H6O
reactant | p-toluenesulfonic acid | 6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | chloro(1,5-cyclooctadiene)iridium(I) dimer | 27 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Ir].[Ir]
product | N-[(1S)-1-phenylprop-2-en-1-yl]cyclopentanamine | C1(=CC=CC=C1)[C@H](C=C)NC1CCCC1 | C14H19N
